US09216980B2
Step 1: 6-Bromo-3-[4-(4,4-dimethylpiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A degassed mixture of 4,4-dimethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine (836 mg, 2.5 mmol), 3-iodo-6-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (500 mg, 1.3 mmol), 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (109 mg, 0.13 mmol) in 1N aqueous potassium fluoride solution (25 mL) and acetonitrile (25 mL) was heated at 80° C. for 18 h. The cooled reaction mixture was diluted with ethyl acetate (100 mL) then washed with water (75 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 120 g column, ISCO, 0-15% methanol in DCM) to afford the title compound as an off-white solid (190 mg, 33%). 1H NMR (CDCl3 plus CD3OD, 300 MHz): 8.85 (d, J=2.2 Hz, 1H), 8.76 (d, J=2.2 Hz, 1H), 8.70 (d, J=0.9 Hz, 1H), 8.32 (d, J=0.9 Hz, 1H), 7.73 (d, J=8.0 Hz, 2H), 7.54 (d, J=8.0 Hz, 2H), 3.82 (s, 2H), 2.77-2.63 (m, 4H), 1.52 (t, J=5.6 Hz, 4H), 1.00 (s, 6H).

reactant | 4,4-dimethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine | 2.5 mmol, 836 mg | CC1(CCN(CC1)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C20H32BNO2
reactant | 3-iodo-6-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 1.3 mmol, 500 mg | IC1=CC2=C(NC3=C2C=C(N=C3)Br)N=C1 | C10H5BrIN3
solvent | potassium fluoride | 1N, 25 mL | [F-].[K+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-3-[4-(4,4-dimethylpiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 190 mg, 33% | BrC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCC(CC3)(C)C | C24H25BrN4
